US04420424
(A) Z-Tyr(But)-NH-C2H5
3.2 ml (25 mmoles) of N-ethylmorpholine and 5.56 g (27 mmoles) of dicyclohexylcarbodiimide are added at 0° C. to a solution in 50 ml of dimethylformamide of 9.27 g (25 mmoles) of Z-Tyr(But)-OH, 2.03 g (25 mmoles) of ethylamine hydrochloride and 3.38 g of 1-hydroxybenzotriazole. The mixture is stirred for two hours at 0° C. and for 5 hours at room temperature and is left to stand overnight at room temperature. The precipitate is filtered off and the filtrate is concentrated. The resulting oil is partitioned between ethyl acetate and water. The ethyl acetate phase is extracted by shaking with KHSO4 solution, NaHCO3 solution and water, is dried over Na2SO4 and is concentrated. The residue cyrstallizes from petroleum ether. Yield 9.63 g (96% ), melting point 107°-110°, [α]D22 =-0.5° (c=1, methanol).

reactant | N-ethylmorpholine | 25 mmoles, 3.2 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 27 mmoles, 5.56 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Z-Tyr(But)-OH | 25 mmoles, 9.27 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
reactant | ethylamine hydrochloride | 25 mmoles, 2.03 g | Cl.C(C)N
reactant | 1-hydroxybenzotriazole | 3.38 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Z-Tyr(But)-NH-C2H5 | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)NCC)C(=O)OCC1=CC=CC=C1 | C23H30N2O4
